US06248770B1
g. 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-methanesulphonyloxy-1-pyrrolidin-1-yl-propan-1-one
A solution of 1.2 g (3.0 mmol) of 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-hydroxy-1-pyrrolidin-1-yl-propan-1-one in 20 ml tetrahydrofuran is mixed at ambient temperature with 1.3 ml (9.3 mmol) of triethylamine. Then 0.27 ml (3.5 mmol) of methanesulphonyl chloride are added dropwise at 2-5° C. After 2 hours at ambient temperature the precipitate formed is suction filtered and the filtrate is concentrated by evaporation. The crude product is further reacted without being purified.

reactant | 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-hydroxy-1-pyrrolidin-1-yl-propan-1-one | 3.0 mmol, 1.2 g | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)C(C(=O)N1CCCC1)(CO)C)[N+](=O)[O-])C | C22H27N3O4
reactant | triethylamine | 9.3 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 3.5 mmol, 0.27 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-methanesulphonyloxy-1-pyrrolidin-1-yl-propan-1-one | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)C(C(=O)N1CCCC1)(COS(=O)(=O)C)C)[N+](=O)[O-])C | C23H29N3O6S
